US07851471B2
3-(4-Phenyl-piperazine-1-carbonyloxymethyl)-morpholine-4-carboxylic acid tert-butyl ester (3.31 g, 8.16 mmol) was stirred in DCM (30 mL) at 0° C. TFA (6 mL) dissolved in DCM (24 mL) was added dropwise. The reaction mixture was stirred overnight at room temperature. The solvents were removed in vacuo and the residue was partitioned between DCM (30 mL) and aq NaHCO3 (5 g in 30 mL). The aqueous layer was extracted with DCM (3×30 mL), dried (MgSO4) and the solvents were removed in vacuo to give morpholin-3-ylmethyl 4-phenylpiperazine-1-carboxylate (2.55 g, quant.) as a white solid.

reactant | 3-(4-Phenyl-piperazine-1-carbonyloxymethyl)-morpholine-4-carboxylic acid tert-butyl ester | 8.16 mmol, 3.31 g | C(C)(C)(C)OC(=O)N1C(COCC1)COC(=O)N1CCN(CC1)C1=CC=CC=C1 | C21H31N3O5
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 24 mL | C(Cl)Cl | CH2Cl2
product | morpholin-3-ylmethyl 4-phenylpiperazine-1-carboxylate | 2.55 g | C1(=CC=CC=C1)N1CCN(CC1)C(=O)OCC1NCCOC1 | C16H23N3O3
